US06297257B1
Synthesis of 4-(5-Phenylpentyloxy)-3-methoxy-benzaldehyde
A solution of vanillin (12.49 g, 82.1 mmoles) in dimethylformamide was added with Na2CO3 (17.4 g, 164 mmoles) and KI (catalytic amount). The mixture was brought to 90° C. then slowly added with methansulfonic acid 5-phenyl-pentyl ester (24.87 g, 103 mmoles) obtained as described in example 11, in dimethylformamide (40 ml). After 1.5 hours the mixture was poured into 1N HCl and thrice extracted with pentane, anhydrified and dried. The residue was purified by silica gel flash chromatography (eluent: petrolatum/ethyl acetate 9:1), so 7.46 g of the title product were obtained (yield: 97%).

reactant | vanillin | 82.1 mmoles, 12.49 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | Na2CO3 | 164 mmoles, 17.4 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methansulfonic acid 5-phenyl-pentyl ester | 103 mmoles, 24.87 g | C1(=CC=CC=C1)CCCCCOS(=O)(=O)C | C12H18O3S
reactant | HCl | 1N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-(5-Phenylpentyloxy)-3-methoxy-benzaldehyde | 7.46 g, yield: 97% | C1(=CC=CC=C1)CCCCCOC1=C(C=C(C=O)C=C1)OC | C19H22O3
